US07064124B2
5-(3,5,6-Trimethyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid
5-(2,5-Dimethoxy-3,4,6-trimethylbenzyl)-2-etoxybenzoic acid (1.25 g, 2.56 mmol) was dissolved in a mixed solution of acetonitrile (30 ml) and water (10 ml) and after adding thereto CAN (3.50 g, 6.39 mmol), the solution was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by silica gel column chromatography (hexand:ethyl acetate=2:1) and then recrystallized from ether to obtain the titled compound (0.800 g, 1.74 mmol, 68%).

reactant | 5-(2,5-Dimethoxy-3,4,6-trimethylbenzyl)-2-etoxybenzoic acid | 2.56 mmol, 1.25 g | COC1=C(CC=2C=CC(=C(C(=O)O)C2)OCC)C(=C(C(=C1C)C)OC)C | C21H26O5
reactant | CAN | 6.39 mmol, 3.50 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
product | 5-(3,5,6-Trimethyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 1.74 mmol, 0.800 g, 68% | CC1=C(C(C(=C(C1=O)C)C)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O | C19H18O6
